US06576627B1
(S)-6-Amino-2-((2-methyl-1-(3-phenylpropanoylamino)propyl)(hydroxyphosphinoyl)oxy)hexanoic acid
The benzyl (S)-6-(benzyloxycarbonylamino)-2-((2-methyl-1-(3-phenylpropanoylamino)propyl)(hydroxyphosphinoyl)oxy)hexanoate (85 mg) obtained in the above step (c) was dissolved in a mixed solvent of dioxane (2.4 ml) and water (0.8 ml) and added with palladium hydroxide (45.8 mg), and the mixture was stirred under a hydrogen atmosphere at room temperature for 24 hours. The reaction mixture was filtered with celite and the filtrate was concentrated. The residue was purified with HP-20 (Diaion, 10 cc, methanol:water=1:4 to 1:1) to obtain the title compound: (S)-6-amino-2-((2-methyl-1-(3-phenylpropanoylamino)propyl)(hydroxyphosphinoyl)oxy)hexanoic acid (25 mg, 45%) (a diastereoisomeric mixture of 1:1).

reactant | benzyl (S)-6-(benzyloxycarbonylamino)-2-((2-methyl-1-(3-phenylpropanoylamino)propyl)(hydroxyphosphinoyl)oxy)hexanoate | 85 mg | C(C1=CC=CC=C1)OC(=O)NCCCC[C@@H](C(=O)OCC1=CC=CC=C1)OP(=O)(O)C(C(C)C)NC(CCC1=CC=CC=C1)=O | C34H43N2O8P
solvent | dioxane | 2.4 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.8 ml | O | H2O
catalyst | palladium hydroxide | 45.8 mg | [OH-].[Pd+2].[OH-]
product | (S)-6-Amino-2-((2-methyl-1-(3-phenylpropanoylamino)propyl)(hydroxyphosphinoyl)oxy)hexanoic acid | NCCCC[C@@H](C(=O)O)OP(=O)(O)C(C(C)C)NC(CCC1=CC=CC=C1)=O | C19H31N2O6P
